US05547973
[1] Preparation of 6,6-dimethyl-3-(4-hydroxyphenyl)-2-cyclohexene-1-one [V-3]
4-Bromophenol benzyl ether (3.34 g) was dissolved in tetrahydrofuran (20 ml), and the resulting solution was stirred at -78° C. in an argon gas stream. n-Butyllithium (8.33 ml, 1.6 mole solution) was added slowly and the mixture was allowed to stand for 15 minutes. A solution of 4,4-dimethyl-2-cyclohexene-1-one (1.57 g) in tetrahydrofuran (5 ml) was slowly added to the above solution, and then, the resulting mixture was allowed to stand for 30 minutes. Thereafter, a saturated aqueous solution of ammonium chloride was added, the mixture was poured into ice water, and extracted with ethyl acetate. The organic layer was dried over sodium sulfate and the solvent was evaporated. Acetone (10 ml) was added to the residue. Then, the Jone's reagent previously prepared was added until its color was no longer changed (until it no longer became green). After 30 minutes, the reaction was ceased by adding isopropyl alcohol. The whole was poured into ice water, and the crude product was extracted with ethyl acetate. The organic layer was dried over sodium sulfate and the solvent was evaporated. The residue was purified by column chromatography (50 g of SiO2, 5% ethyl acetate/hexane) to obtain the above-titled compound [V-3] (700 mg). 1H-NMR (δppm; CDCl3) 1.12 (s, 3 H), 1.24 (s, 3 H), 1.68 (m, 2 H), 1.81-1.99 (m, 2 H), 5.28 (b, 2 H), 6.79 (d, J=8.71 Hz, 2 H), 6.84 (d, J=8.71 Hz, 1 H), 7.07 (d, J=8.71 Hz, 2 H), 7.41 (d, J=8.16 Hz, 1 H)

reactant | 4-Bromophenol benzyl ether | 3.34 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)Br | C13H11BrO
reactant | n-Butyllithium | 1.6 mole, 8.33 ml | C(CCC)[Li]
reactant | 4,4-dimethyl-2-cyclohexene-1-one | 1.57 g | CC1(C=CC(CC1)=O)C | C8H12O
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | 6,6-dimethyl-3-(4-hydroxyphenyl)-2-cyclohexene-1-one | 700 mg | CC1(CCC(=CC1=O)C1=CC=C(C=C1)O)C | C14H16O2
